US07345075B2
c) 6-[(5-Amino-1-(3,4-dimethylphenyl)-2-phenyl-1H-benzimidazol-6-yl)oxy]hexanoic acid methyl ester
2.45 g of 6-[[3-[(3,4-dimethylphenyl)amino]-4,6-dinitrophenyl]oxy]hexanoic acid methyl ester was hydrogenated in methanol according to general operating instructions 1. 500 mg of the crude product was reacted with benzimidate hydrochloride according to general operating instructions 4. Contrary to general operating instructions 4, after being taken up in solvent, the crude product was not washed with aqueous hydrochloric acid.

reactant | 6-[[3-[(3,4-dimethylphenyl)amino]-4,6-dinitrophenyl]oxy]hexanoic acid methyl ester | 2.45 g | COC(CCCCCOC1=CC(=C(C=C1[N+](=O)[O-])[N+](=O)[O-])NC1=CC(=C(C=C1)C)C)=O | C21H25N3O7
reactant | benzimidate hydrochloride | Cl.C(C1=CC=CC=C1)(O)=N
solvent | methanol | CO | CH4O
product | 6-[(5-Amino-1-(3,4-dimethylphenyl)-2-phenyl-1H-benzimidazol-6-yl)oxy]hexanoic acid methyl ester | COC(CCCCCOC=1C(=CC2=C(N(C(=N2)C2=CC=CC=C2)C2=CC(=C(C=C2)C)C)C1)N)=O | C28H31N3O3
